US09102669B2
1-(1-(6-(1-ethyl-1H-pyrazol-4-yl)pyridazin-3-yl)piperidin-4-yl)-6-fluoroindoline (Compound #21)
The title compound was prepared following the procedure as described in Example 1, Method A, reacting 1-ethylpyrazole-4-boronic acid pinacol ester and 1-(1-(6-chloropyridazin-3-yl)piperidin-4-yl)-6-fluoroindoline.

reactant | 1-ethylpyrazole-4-boronic acid pinacol ester | C(C)N1N=CC(=C1)B1OC(C)(C)C(C)(C)O1 | C11H19BN2O2
reactant | 1-(1-(6-chloropyridazin-3-yl)piperidin-4-yl)-6-fluoroindoline | ClC1=CC=C(N=N1)N1CCC(CC1)N1CCC2=CC=C(C=C12)F | C17H18ClFN4
product | 1-(1-(6-(1-ethyl-1H-pyrazol-4-yl)pyridazin-3-yl)piperidin-4-yl)-6-fluoroindoline | C(C)N1N=CC(=C1)C1=CC=C(N=N1)N1CCC(CC1)N1CCC2=CC=C(C=C12)F | C22H25FN6
